data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2760,3066,[CH3:18][O:19][C:20](=[O:21])[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N+:29]([CH3:30])=[C:31]([C:32]([CH3:33])=[O:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:31]([C:32]([CH3:33])=[O:34])([c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[N:29]([CH3:30])[C:22]3([C:20]([O:19][CH3:18])=[O:21])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,29.121115676732146,-33.541008308451055
2304,2554,[CH3:12][O:13][C:14](=[O:15])[C-:16]([CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[N:18]([CH3:19])[C:20]3([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,27.25649588638285,-36.62499051477632
2484,2759,[CH3:17][NH:18][C:19](=[O:20])[C:21]([CH3:22])=[NH+:23][C-:24]([C:25](=[O:26])[NH:27][CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[C:24]([C:25](=[O:26])[NH:27][CH3:28])([c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[NH:23][C:21]1([C:19]([NH:18][CH3:17])=[O:20])[CH3:22],water,298.15,15.953757423595617,-2.8601155523064
3454,3933,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([C:17]#[N:18])[o+:19]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:16]1([C:17]#[N:18])[C:14](=[O:15])[O:13][C:12]2([C:10]([CH3:9])=[O:11])[O:19]1,water,298.15,17.135836347113873,-15.330972776538523
252,275,[CH3:13][C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:18]#[N:19])=[N:16][C:14]2([CH3:13])[CH3:15],water,298.15,14.706792977581491,-36.74723997260343
3356,3810,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N:15]=[O+:16][NH-:17]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[NH:17][O:16][N:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,5.7886908404695925,-44.24304210149473
2316,2572,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C-:15]([NH+:16]=[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:16][C:15]3([C:14]#[N:13])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,23.07429145255425,-27.81612192593436
4909,5593,[CH3:10][C:11](=[O:12])[C:13](=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:14][C:13]1([C:11]([CH3:10])=[O:12])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,30.405715304505684,-0.99040597543454
144,160,[CH3:13][C:14]#[N+:15][O-:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]([CH3:13])=[N:15][O:16]2,water,298.15,30.41169573342876,-24.94903808801808
919,995,[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2.[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]=[CH:11]3,water,298.15,11.194335028148162,-57.71858887246173
3465,3946,[CH3:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[CH-:15][C:16]([CH3:17])=[O:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:15]([C:16]([CH3:17])=[O:18])[N:13]([CH3:14])[CH:12]1[C:10]([CH3:9])=[O:11],water,298.15,30.82010790397293,-19.28410950842181
